US08937071B2
To a solution of 2-(4-bromo-2-fluorophenyl)acetic acid (0.1 g, 0.429 mmol) in sulfurous dichloride (5 mL, 0.429 mmol) was added DMF (3.32 μL, 0.043 mmol). The resulting mixture was stirred at 60° C. After 2 h, TLC analysis (PE/EA=1/1) showed the starting material had disappeared. The solvent was removed in vacuo to give 2-(4-bromo-2-fluorophenyl)acetyl chloride (110 mg, 0.416 mmol, 97% yield). A solution of 2-(4-bromo-2-fluorophenyl)acetyl chloride (110 mg, 0.437 mmol) in THF (5 mL) was added to ammonium hydroxide (10 mL, 257 mmol). The resulting mixture was stirred at 0° C. After LCMS analysis showed the starting material had disappeared, the solvent was removed in vacuo. The residue was dissolved in EA (50 mL) and washed with H2O (10 mL) and brine (10 mL). The organic layer was dried and concentrated to give a white solid of 2-(4-bromo-2-fluorophenyl)acetamide (100 mg, 0.280 mmol, 63.9% yield), which was used into the next step without further purification: 1H NMR (400 MHz, CD3OD) δ 7.32-7.30 (m, 2H), 7.24 (t, J=8.2 Hz, 1H), 3.54 (s, 2H); ES-LCMS m/z 232.0 (M+H).

reactant | 2-(4-bromo-2-fluorophenyl)acetic acid | 0.429 mmol, 0.1 g | BrC1=CC(=C(C=C1)CC(=O)O)F | C8H6BrFO2
reactant | sulfurous dichloride | 0.429 mmol, 5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | 0.043 mmol, 3.32 μL | CN(C)C=O | C3H7NO
solvent | EA | CC(OCC)=O | C4H8O2
product | 2-(4-bromo-2-fluorophenyl)acetyl chloride | 0.416 mmol, 110 mg, 97% yield | BrC1=CC(=C(C=C1)CC(=O)Cl)F | C8H5BrClFO
